US06310095B1
N-[4-(N-(cyclohexylmethyl)aminoethyl)-2-(2-methylphenyl)benzoyl methionine methyl ester
Methyl 4-(N-(cyclohexylmethyl)aminoethyl)-2-(2-methylphenyl)benzoate hydrochloride (1.33 g, 3.31 mmol) was treated with sat. LiOH (1.3 mL, 6.95 mmol) in 50 mL methanol at 60° C. until no starting material remained by tlc. The solution was evaporated to dryness and treated with Met-OMe.HCl (0.99 g, 4.96 mmol), EDAC (1.26 g, 6.6 mmol), HOBt (1.5 g, 9.9 mmol), and TEA (to pH 6˜7) in 25 mL DMF. Standard aqueous workup followed by flash chromatography (100% EtOAc) provided 1.5 g of the title compound. MS m/e 497 (M−H)−.

reactant | Methyl 4-(N-(cyclohexylmethyl)aminoethyl)-2-(2-methylphenyl)benzoate hydrochloride | 3.31 mmol, 1.33 g | Cl.C1(CCCCC1)CNCCC1=CC(=C(C(=O)OC)C=C1)C1=C(C=CC=C1)C
reactant | LiOH | 6.95 mmol, 1.3 mL | [Li+].[OH-]
reactant | Met-OMe.HCl | 4.96 mmol, 0.99 g | N[C@@H](CCSC)C(=O)OC.Cl
reactant | EDAC | 6.6 mmol, 1.26 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 9.9 mmol, 1.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | methanol | 50 mL | CO | CH4O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(N-(cyclohexylmethyl)aminoethyl)-2-(2-methylphenyl)benzoyl methionine methyl ester | 1.5 g | COC([C@@H](NC(C1=C(C=C(C=C1)CCNCC1CCCCC1)C1=C(C=CC=C1)C)=O)CCSC)=O | C29H40N2O3S
